US09029538B2
1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3,5-dimethyl-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxy-quinolin-4-yloxy)-3,5-dimethyl-phenylamine and 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. mp=240-242° C.; LCMS m/z=585 (M+1); 1H NMR (DMSO-d6) δ: 10.90 (s, 1H), 8.84 (s, 1H), 8.41 (d, 1H, J=5 Hz), 7.61 (s, 1H), 7.55 (s, 1H), 7.45-7.33 (m, 6H), 6.19 (d, 1H, J=6 Hz), 4.01 (q, 2H, J=8 Hz), 3.95 (d, 6H, J=5 Hz), 2.07 (s, 6H), 1.30 (t, 3H, J=7 Hz).

reactant | 4-(6,7-dimethoxy-quinolin-4-yloxy)-3,5-dimethyl-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1C)N)C | C19H20N2O3
reactant | 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C13H11FN2O4
product | 1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3,5-dimethyl-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1C)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O)C | C32H29FN4O6
